US05672715
To a solution of 7.0 g of 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenemethanol in 200 mL of diethyl ether was added 30 mL of phosphorus tribromide and the mixture allowed to stir overnight. The reaction mixture was poured into ice water, the ether removed by concd in vacuo and the resultant solid collected by filtration. The solid was washed with water and air dried to give a quantitative yield of 3-[5-(bromomethyl)-4-chloro-2-fluorophenyl]-1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazole: 1HNMR (CDCl3) δ 2.17 (t. 3H, 2.0 Hz), 4.07 (s, 3H), 4.64 (s, 2H), 7.30 (d, 1H, 9.5 Hz), 7.62 (d, 1H, 7.5 Hz); 19FNMR (CDCl3) δ -58.5 (s, 3F), -111.6 (s, 1F).

reactant | 2-chloro-5-[1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenemethanol | 7.0 g | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1C)C(F)(F)F)C)CO | C13H11ClF4N2O
reactant | phosphorus tribromide | 30 mL | P(Br)(Br)Br | Br3P
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 3-[5-(bromomethyl)-4-chloro-2-fluorophenyl]-1,4-dimethyl-5-(trifluoromethyl)-1H-pyrazole | quantitative yield | BrCC=1C(=CC(=C(C1)C1=NN(C(=C1C)C(F)(F)F)C)F)Cl | C13H10BrClF4N2
